US08008307B2
Step a: 4,6-Dichloro-N-[(1S)-2,3-dihydro-1H-inden-1-yl]-1,3,5-triazin-2-amine
To a solution of cyanuric chloride (631 mg, 3.42 mmol) in THF (2.00 mL) at 0° C. was added (S)-(+)-1-aminoindan (0.385 mL, 3.00 mmol) and DIPEA (0.596 mL, 3.42 mmol) and the mixture was stirred at 0° C. for 2 h. The reaction was then poured into H2O, extracted with DCM and the organic layer was dried over MgSO4, filtered and concentrated in vacuo. The residue was purified via silica gel chromatography eluting with a gradient of 0 to 20% EtOAc in hexanes to afford the title compound as a yellow solid (738 mg, 87%). LC/MS: Rt=1.99 nm, ES+ 281 (FA standard).

reactant | cyanuric chloride | 3.42 mmol, 631 mg | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | (S)-(+)-1-aminoindan | 3.00 mmol, 0.385 mL | N[C@H]1CCC2=CC=CC=C12 | C9H11N
reactant | DIPEA | 3.42 mmol, 0.596 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | H2O | O | H2O
solvent | THF | 2.00 mL | C1CCOC1 | C4H8O
product | 4,6-Dichloro-N-[(1S)-2,3-dihydro-1H-inden-1-yl]-1,3,5-triazin-2-amine | 738 mg, 87% | ClC1=NC(=NC(=N1)Cl)N[C@H]1CCC2=CC=CC=C12 | C12H10Cl2N4
